US05380735
Synthesis of 2-amino-4-bromo-6-methylbenzothiazole
16.4 g of 2-amino-6-methylbenzothiazole was dissolved in 500 ml of chloroform. To this solution was added dropwise 16.0 g of bromine dissolved in 10 ml of chloroform at room temperature. The reaction mixture was stirred for 2 hours and then washed once with 10% aqueous sodium hydroxide solution and water, respectively. The organic layer was separated, dried with anhydrous sodium sulfate and then evaporated to obtain the title compound in the yield of 92%.

reactant | 2-amino-6-methylbenzothiazole | 16.4 g | NC=1SC2=C(N1)C=CC(=C2)C | C8H8N2S
reactant | bromine | 16.0 g | BrBr | Br2
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-4-bromo-6-methylbenzothiazole | yield of 92% | NC=1SC2=C(N1)C(=CC(=C2)C)Br | C8H7BrN2S
